US04440933
3-Amino-4-{2-[(5-dimethylaminomethyl-4-methyl-2-thienyl)methylthio]ethylamino}-1,2,5-thiadiazole
The general procedure of Example 5 is repeated except that the 3-amino-4-{2-[(5-dimethylaminomethyl-3-thienyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide utilized therein is replaced by an equimolar amount of 3-amino-4-{2-[(5-dimethylaminomethyl-4-methyl-2-thienyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide [prepared according to the general procedure described in U.S. Pat. No. 4,374,248], and the title compound is thereby produced.

reactant | 3-amino-4-{2-[(5-dimethylaminomethyl-3-thienyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide | NC1=NS(N=C1NCCSCC1=CSC(=C1)CN(C)C)=O | C12H19N5OS3
reactant | 3-amino-4-{2-[(5-dimethylaminomethyl-4-methyl-2-thienyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide | NC1=NS(N=C1NCCSCC=1SC(=C(C1)C)CN(C)C)=O | C13H21N5OS3
product | 3-Amino-4-{2-[(5-dimethylaminomethyl-4-methyl-2-thienyl)methylthio]ethylamino}-1,2,5-thiadiazole | NC1=NSN=C1NCCSCC=1SC(=C(C1)C)CN(C)C | C13H21N5S3
